US05093370
1,4-Bis[3-(1-pyridinio)propyl]benzene dibromide
First, 320 mg of 1,4-bis(3-bromopropyl)benzene was dissolved in 5.0 ml of ethanol, 202 μl of pyridine was added thereto, the mixture was then refluxed for 18 hours. After cooling, to the reaction mixture was added 20 ml of ethyl ether. The resulting solids were recrystallized from ethanol/ethyl ether to obtain 215 mg of the title compound as a colorless crystal.

reactant | 1,4-bis(3-bromopropyl)benzene | 320 mg | BrCCCC1=CC=C(C=C1)CCCBr | C12H16Br2
reactant | pyridine | 202 μl | N1=CC=CC=C1 | C5H5N
reactant | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | 1,4-Bis[3-(1-pyridinio)propyl]benzene dibromide | 215 mg | [Br-].[Br-].[N+]1(=CC=CC=C1)CCCC1=CC=C(C=C1)CCC[N+]1=CC=CC=C1 | InChI=1S/C22H26N2.2BrH/c1-3-15-23(16-4-1)19-7-9-21-11-13-22(14-12-21)10-8-20-24-17-5-2-6-18-24;;/h1-6,11-18H,7-10,19-20H2;2*1H/q+2;;/p-2
